US07750190B2
Synthesis of 4,4′-methylene bis(2,5-dimethyl-6-formylphenol) (Chemical Formula 17)
171.0 g (1.5 mol) of trifluoroacetic acid was put in a four-way flask with a capacity of 1 liter and the reaction container was substituted by nitrogen, after which 47.3 g (0.34 mol) of hexamethylene tetramine was added at a temperature of approx. 25° C., and then 47.4 g (0.15 mol) of 4,4′-methylene bis(2,5-dimethyl-6-hydroxymethylphenol) was added under agitation over 2.5 hours at a temperature of 50° C. to cause reaction. After the entire amount of the material had been added, the temperature was raised to 80° C., and then the mixture was further agitated for 20 hours as a post-reaction. Next, 150.0 g of water was added to the mixture liquid obtained from the reaction to implement hydrolysis reaction for 1 hour at a temperature of 70° C. (crystal precipitated during this reaction). 245.7 g of 16% aqueous sodium hydroxide solution was added to neutralize the obtained mixture liquid, which was then kept at a temperature of 80° C. for 1 hour. Thereafter, the mixture was cooled and precipitated crystal was filtered out to obtain 72.3 g of coarse crystal. Next, the obtained coarse crystal was put in a four-way flask with a capacity of 1 liter, and then 70.0 g of methyl isobutyl ketone and 50.0 g of toluene were added and the mixture was kept at a temperature of 80° C. for 1 hour (the solution was in a slurry state), after which the mixture was cooled and precipitated crystal was filtered out and dried to obtain 45.3 g of yellow powder having a purity of 94.6% based on HPLC.

reactant | trifluoroacetic acid | 1.5 mol, 171.0 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexamethylene tetramine | 0.34 mol, 47.3 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 4,4′-methylene bis(2,5-dimethyl-6-hydroxymethylphenol) | 0.15 mol, 47.4 g | C(C1=CC(=C(C(=C1C)CO)O)C)C1=CC(=C(C(=C1C)CO)O)C | C19H24O4
reactant | water | 150.0 g | O | H2O
solvent | toluene | 50.0 g | C1(=CC=CC=C1)C | C7H8
solvent | methyl isobutyl ketone | 70.0 g | C(C(C)C)C(=O)C | C6H12O
product | 4,4′-methylene bis(2,5-dimethyl-6-formylphenol) | 45.3 g | C(C1=CC(=C(C(=C1C)C=O)O)C)C1=CC(=C(C(=C1C)C=O)O)C | C19H20O4
